US07491720B2
(2) Synthesis of 6-(((tert-butyl(dimethyl)silyl)oxy)methyl)-N-thiazol-2-ylpyridin-2-amine
A mixture of 7.85 g of 2-bromo-6-(((tert-butyl(dimethyl)silyl)oxy)methyl)pyridine, 3.12 g of 2-aminothiazole, 1.50 g of 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene, 1.35 g of tris(dibenzylideneacetone)dipalladium(0)-chloroform complex, 13.8 g of potassium phosphate and 80 ml of 1,4-dioxane was stirred at 100° C. for 4.5 hours, cooled to room temperature and diluted with ethyl acetate. An insoluble matter was filtered off using Celite and the resulting ethyl acetate solution was washed with water and brine. The organic layer was dried over anhydrous magnesium sulfate and filtered, and the filtrate was concentrated. The residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate=10/1 to 1/1) to give the title compound.

reactant | 2-bromo-6-(((tert-butyl(dimethyl)silyl)oxy)methyl)pyridine | 7.85 g | BrC1=NC(=CC=C1)CO[Si](C)(C)C(C)(C)C | C12H20BrNOSi
reactant | 2-aminothiazole | 3.12 g | NC=1SC=CN1 | C3H4N2S
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 1.50 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | potassium phosphate | 13.8 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 6-(((tert-butyl(dimethyl)silyl)oxy)methyl)-N-thiazol-2-ylpyridin-2-amine | [Si](C)(C)(C(C)(C)C)OCC1=CC=CC(=N1)NC=1SC=CN1 | C15H23N3OSSi
